US09359359B2
To a solution of 3-(2-(7-(4-chlorobenzyl)-3-methyl-2,6-dioxo-1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-2,3,6,7-tetrahydro-1H-purin-8-yloxy)ethoxy)benzaldehyde (100 mg, 0.171 mmol) in methanol (3 mL) and THF (3 mL) was added acetic acid (0.2 ml, 3.49 mmol) and dimethylamine hydrochloride (90 mg, 1.10 mmol). The mixture was stirred at room temperature for 1 h. Then the mixture was cooled to 0° C., sodium cyanoborohydride (16.1 mg, 0.256 mmol) was added under a nitrogen atmosphere. The resulting mixture was stirred and allowed to warm to room temperature overnight. The mixture was concentrated and purified via silica gel chromatography eluting with DCM/methanol (60:1) to give 7-(4-chlorobenzyl)-8-(2-(3-((dimethylamino)methyl)phenoxy)ethoxy)-3-methyl-1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-purine-2,6(3H,7H)-dione (26.1 mg, 24.9%) as white solid. LCMS MH+ 613.

reactant | 3-(2-(7-(4-chlorobenzyl)-3-methyl-2,6-dioxo-1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-2,3,6,7-tetrahydro-1H-purin-8-yloxy)ethoxy)benzaldehyde | 0.171 mmol, 100 mg | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCOC2OCCCC2)=O)C)OCCOC=2C=C(C=O)C=CC2)C=C1 | C29H31ClN4O7
reactant | acetic acid | 3.49 mmol, 0.2 ml | C(C)(=O)O | C2H4O2
reactant | dimethylamine hydrochloride | 1.10 mmol, 90 mg | Cl.CNC
reactant | sodium cyanoborohydride | 0.256 mmol, 16.1 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 7-(4-chlorobenzyl)-8-(2-(3-((dimethylamino)methyl)phenoxy)ethoxy)-3-methyl-1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-purine-2,6(3H,7H)-dione | 26.1 mg, 24.9% | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCOC2OCCCC2)=O)C)OCCOC2=CC(=CC=C2)CN(C)C)C=C1 | C31H38ClN5O6
